US07825150B2
6.6. Synthesis of N′-(1-(4-((1R,2S,3R)-1,2,3,4-tetrahydroxybutyl)-1H-imidazol-2-yl)ethylidene)acetohydrazide
1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone (160 mg, 0.70 mmol) was suspended in methanol (3 ml) and water (1 ml). Acetic hydrazide (56 mg, 0.75 mmol, 1.2 eq.) and hydrochloric acid (one drop, 12 N) were added, and the suspension was stirred at 50° C. for 48 hours. LCMS analysis indicated the formation of the product and the absence of starting material. The reaction mixture was cooled to room temperature and diluted with tetrahydrofuran. The resulting white precipitate was collected and washed with tetrahydrofuran to yield the product, a mixture of approximately 3:1 E:Z isomers, as a white solid: 129 mg (65%).

reactant | 1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone | 0.70 mmol, 160 mg | O[C@@H]([C@@H]([C@@H](CO)O)O)C=1N=C(NC1)C(C)=O | C9H14N2O5
reactant | Acetic hydrazide | 0.75 mmol, 56 mg, 1.2 eq. | C(C)(=O)NN | C2H6N2O
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
catalyst | hydrochloric acid | 12 N, one drop | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N′-(1-(4-((1R,2S,3R)-1,2,3,4-tetrahydroxybutyl)-1H-imidazol-2-yl)ethylidene)acetohydrazide | O[C@@H]([C@@H]([C@@H](CO)O)O)C=1N=C(NC1)C(C)=NNC(C)=O | C11H18N4O5
